US05731322
(±)-trans-6-Cyclopropylmethyl-2-diethylaminocarbonyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride
0.28 g (0.80 mmol) of (±)-trans-2-cyclopropylmethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride, 0.56 g (2.14 mmol) of N,N-diethyl-2-phenylhydrazono-3-oxobutyramide, 0.131 g (1.6 mmol) of CH3COONa, 0.402 g (6.16 mmol) of zinc dust and 10 ml of glacial acetic acid were treated as described in example 1. The residue was purified by flash chromatography ((i-Pr)2O/MeOH/conc. NH4OH 90:10:0.5). The product was dissolved in acetone and the solution brought to acidic pH with Et2O/HCl . The solid was filtered, washed and dried yielding 0.225 g of the title compound. M.p.=190°-195° C.

reactant | (±)-trans-2-cyclopropylmethyl-4a-(3-methoxyphenyl)-6-oxo-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline hydrochloride | 0.80 mmol, 0.28 g | Cl.C1(CC1)CN1C[C@@H]2CCC(C[C@]2(CC1)C1=CC(=CC=C1)OC)=O
reactant | N,N-diethyl-2-phenylhydrazono-3-oxobutyramide | 2.14 mmol, 0.56 g | C(C)N(C(C(C(C)=O)=NNC1=CC=CC=C1)=O)CC | C14H19N3O2
reactant | CH3COONa | 1.6 mmol, 0.131 g | CC(=O)O[Na]
catalyst | zinc | 6.16 mmol, 0.402 g | [Zn] | Zn
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (±)-trans-6-Cyclopropylmethyl-2-diethylaminocarbonyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | 0.225 g | Cl.C1(CC1)CN1C[C@H]2CC3=C(C[C@@]2(CC1)C1=CC(=CC=C1)OC)NC(=C3C)C(=O)N(CC)CC | InChI=1S/C28H39N3O2.ClH/c1-5-31(6-2)27(32)26-19(3)24-15-22-18-30(17-20-10-11-20)13-12-28(22,16-25(24)29-26)21-8-7-9-23(14-21)33-4;/h7-9,14,20,22,29H,5-6,10-13,15-18H2,1-4H3;1H/t22-,28+;/m1./s1
